US07320995B2
1-isopropylsulfonyl-2-amino-6-(3-(methyl)-1-(phenyl)-pyrazol-5-yl)-benzimidazole
To a solution of 5-(bromo)-3-(methyl)-1-(phenyl)-pyrazole (264 mg, 1.11 mmol) in 6 mL DME add 1-isopropylsulfonyl-2-amino-benzimidazole-6-boronic acid (694 mg, 2.45 mmol). Add sodium carbonate (354 mg, 3.34 mmol) dissolved in 0.5 mL of water and trans-dichlorobis(triphenylphosphine) palladium (II) (234 mg, 0.33 mmol). Heat the mixture to 100° C. with stirring under nitrogen. After 2 hours, cool and filter over a pad of Celite® and sodium sulfate. Purify the crude product by radial chromatography eluting with 4% methanol in CH2Cl2 to yield 201 mg (46%) of the title compound. MS(ES+): m/z=396.0 (M+H)+

reactant | 5-(bromo)-3-(methyl)-1-(phenyl)-pyrazole | 1.11 mmol, 264 mg | BrC1=CC(=NN1C1=CC=CC=C1)C | C10H9BrN2
reactant | 1-isopropylsulfonyl-2-amino-benzimidazole-6-boronic acid | 2.45 mmol, 694 mg | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)B(O)O)N | C10H14BN3O4S
reactant | sodium carbonate | 3.34 mmol, 354 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 6 mL | COCCOC | C4H10O2
solvent | water | 0.5 mL | O | H2O
product | 1-isopropylsulfonyl-2-amino-6-(3-(methyl)-1-(phenyl)-pyrazol-5-yl)-benzimidazole | 201 mg, 46% | C(C)(C)S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C2=CC(=NN2C2=CC=CC=C2)C)N | C20H21N5O2S
